** sch_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved_tb-loopgain.sch
**.subckt ota-improved_tb-loopgain
*----------------------------------------------------------*
* Testbench
*----------------------------------------------------------*
Vdd v_dd GND VDD
Vss v_ss GND 0
Vin v_in v_ss dc 0.75
Venable v_ena v_ss VDD
C2 vr1 v_ss CL m=1
I1 v_dd net1 20u
Vtest1 vf1 vr1 dc 0 ac 1
C1 net2 v_ss CL m=1
I2 v_dd net3 20u
Vir1 net2 net5 0
.save i(vir1)
Vif1 net5 net4 0
.save i(vif1)
Itest1 v_ss net5 dc 0 ac 1
C3 net6 v_ss CL m=1
I3 v_dd net7 20u
C4 net8 v_ss CL m=1
I4 v_dd net9 20u
Itest3 v_ss vmeas1 dc 0 ac 0
Vtest2 vmeas1 net10 dc 0 ac 1
Vimeas1 net6 net10 0
.save i(vimeas1)
Itest2 v_ss vmeas2 dc 0 ac 1
Vtest3 vmeas2 net11 dc 0 ac 0
Vimeas2 net8 net11 0
.save i(vimeas2)
x1 v_dd vr1 v_in vf1 net1 v_ena v_ss ota-improved
x2 v_dd net2 v_in net4 net3 v_ena v_ss ota-improved
x3 v_dd net6 v_in vmeas1 net7 v_ena v_ss ota-improved
x4 v_dd net8 v_in vmeas2 net9 v_ena v_ss ota-improved

*----------------------------------------------------------*
* Technology Library
*----------------------------------------------------------*
.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ



.param temp=27
.options savecurrents reltol=1e-3 abstol=1e-12 gmin=1e-15

*----------------------------------------------------------*
* Control Block
*----------------------------------------------------------*
.control

    echo ==================================
    echo start of Control
    echo ==================================

    save all

    echo
    echo (A) start of OP
    echo ----------------------------------
    run
    remzerovec

    echo
    echo (B) start of AC Sim
    echo ----------------------------------
    * Middlebrook's Method
    let tv=-v(vr1)/v(vf1)
    let ti=-i(vir1)/i(vif1)
    let tmb=(tv*ti - 1)/(tv + ti + 2)

    * plot db(tmb) ylabel 'Magnitude - Middlebrook'
    * plot 180/pi*cphase(tmb) ylabel 'Phase - Middlebrook'

    * * Tian's Method
    * * vtest=0, itest=1:
    * let A=i(Vimeas2)
    * let C=v(vmeas2)

    * * vtest=1, itest=0:
    * let B=i(Vimeas1)
    * let D=v(vmeas1)
    * let ttian=(A*D-B*C-A)/(2*(B*C-A*D)+A-D+1)

    * plot db(ttian) ylabel 'Magnitude - Tian'
    * plot 180/pi*cphase(ttian) ylabel 'Phase - Tian'

    * Middlebrook vs. Tian
    * plot db(tmb) db(ttian) ylabel 'Magnitude'
    * plot 180/pi*cphase(tmb) 180/pi*cphase(ttian) ylabel 'Phase'

    echo (3) measuring performance metrics
    * magnitude
    let out = tmb
    let out_mag = db(out)
    let out_phase = cphase(tmb) * 180/pi

    meas ac GMAX max out_mag

    meas ac DCGAIN MAX out_mag FROM=10 TO=10k

    let f3db = DCGAIN-3
    meas ac FBW WHEN out_mag=f3db FALL=1

    meas ac unity_gain_phase find out_phase when out_mag=0
    meas ac UGF when out_mag=0 fall=1

    let PM = (180-unity_gain_phase) % 180
    
    echo ----------------------------------
    echo END of AC sim
    echo  ----------------------------------

    echo SAVING SIMULATION RESULTS IN THE RAW FILE
    * save out DCGAIN PM FBW UGF
    write

    echo ==================================
    echo END of Control
    echo ==================================

    quit

.endc


*----------------------------------------------------------*
* Parameter Definitions
*----------------------------------------------------------*

.param X_DUT_V_BIAS_1 = 0.6
.param X_DUT_V_BIAS_2 = 0.5

.param X_DUT_M5_L = 5u
.param X_DUT_M5_W = 6u
.param X_DUT_M5_NG = 3

.param X_DUT_M6_L = 5u
.param X_DUT_M6_W = 2u

.param X_DUT_M1M2_L = .5u
.param X_DUT_M1M2_W = 1u

.param X_DUT_M1CM2C_L = .5u
.param X_DUT_M1CM2C_W = 1u

.param X_DUT_M3CM4C_L = .5u
.param X_DUT_M3CM4C_W = 3u

.param X_DUT_M3M4_L = .5u
.param X_DUT_M3M4_W = 3u

.param VDD = 1.5
.param CL = 50f
.param V_CM = 0.8


.param F_AC_STEP=101
.param F_AC_START=1
.param F_AC_STOP=100G


*----------------------------------------------------------*
* ANALYSIS COMMAND (Moved to Netlist)
*----------------------------------------------------------*
.ac dec {F_AC_STEP} {F_AC_START} {F_AC_STOP}

**** end user architecture code
**.ends

* expanding   symbol:  ota-improved.sym # of pins=7
** sym_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved.sym
** sch_path: /home/noorizad/code/TCAD/modules/SpiceXplorer/examples/OTA/cascode/ihp-sg13g2/xschem/ota-improved.sch
.subckt ota-improved vdd vout vinp vinn ibias_5u d_ena vss
*.ipin ibias_5u
*.iopin vdd
*.iopin vss
*.ipin vinp
*.ipin vinn
*.opin vout
*.ipin d_ena
XM5 net6 gate vss vss sg13_lv_nmos w=X_DUT_M5_W l=X_DUT_M5_L ng=X_DUT_M5_NG m=1
XM4 net2 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM1 net4 vinp tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM2 net5 vinn tail vss sg13_lv_nmos w=X_DUT_M1M2_W l=X_DUT_M1M2_L ng=1 m=1
XM3 net3 gate_p vdd vdd sg13_lv_pmos w=X_DUT_M3M4_W l=X_DUT_M3M4_L ng=1 m=1
XM6 net1 gate vss vss sg13_lv_nmos w=X_DUT_M6_W l=X_DUT_M6_L ng=1 m=1
XMpd5 gate ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd3 ena ena_n vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd4 ena ena_n vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
XMpd6 net1 ena gate vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2c vout dp_casc net5 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM1c gate_p dp_casc net4 vss sg13_lv_nmos w=X_DUT_M1CM2C_W l=X_DUT_M1CM2C_L ng=1 m=1
XM4c vout gate_pc net2 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XM3c gate_p gate_pc net3 vdd sg13_lv_pmos w=X_DUT_M3CM4C_W l=X_DUT_M3CM4C_L ng=1 m=1
XMpd8 gate_p ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas1 tail net6 0
.save i(vmeas1)
XMpd1 ena_n d_ena vss vss sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMpd2 ena_n d_ena vdd vdd sg13_lv_pmos w=1u l=0.13u ng=1 m=1
Vmeas4 ibias_5u net1 0
.save i(vmeas4)
XMpd11 vout ena_n vss vss sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1
XMdecoup1 vss gate vss vss sg13_lv_nmos w=8u l=1u ng=4 m=1
XMdecoup3 vdd gate_pc vdd vdd sg13_lv_pmos w=12u l=0.5u ng=4 m=1
V1 vdd gate_pc X_DUT_V_BIAS_2
V2 dp_casc tail X_DUT_V_BIAS_1
.ends

.GLOBAL GND
.end
